US20010019995A1
A solution of 1.15 g of 1,1,2-tribromo-2-(hexyloxymethyl)cyclopropane (2.9 mmol) in 6 ml of ether was treated at −78° C. with 1.4 ml of methyllithium (1.4 M, 8.8 mmol). After 5 minutes, the reaction mixture was warmed to 0° C. and held at this temperature. The reaction was quenched with saturated ammonium chloride. The reaction mixture was washed with water and brine, dried over magnesium sulfate, filtered and stripped to give 320 mg of 1-hexyloxymethyl-cyclopropene, as a dark yellow liquid.

reactant | 1,1,2-tribromo-2-(hexyloxymethyl)cyclopropane | 2.9 mmol, 1.15 g | BrC1(C(C1)(COCCCCCC)Br)Br | C10H17Br3O
reactant | methyllithium | 8.8 mmol, 1.4 M, 1.4 ml | C[Li]
solvent | ether | 6 ml | CCOCC | C4H10O
product | 1-hexyloxymethyl-cyclopropene | 320 mg | C(CCCCC)OCC1=CC1 | C10H18O
